US07435815B2
Ethyl-(6-methyl-pyridin-2-ylmethyl)-amine
prepared by reaction of ethylamine with 6-methyl-pyridine-2-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | 6-methyl-pyridine-2-carbaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
product | Ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
